US08686022B2
(S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-hydroxymethyl-2-methoxy-phenyl)-amide
1.73 g (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-2-methoxy-3-trimethylsilanyloxymethyl-phenyl)-amide are dissolved in 15 ml dichloromethane, combined with 5.34 ml of a 5 M solution of hydrogen chloride in isopropanol and stirred for 30 minutes at ambient temperature. The mixture is divided between dichloromethane and saturated aqueous sodium hydrogen carbonate solution, the aqueous phase is extracted twice with dichloromethane and the combined organic phases are washed with saturated aqueous sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo and the product thus obtained is further reacted directly.

reactant | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-2-methoxy-3-trimethylsilanyloxymethyl-phenyl)-amide | 1.73 g | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC)CO[Si](C)(C)C | C36H53N5O4Si
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | isopropanol | C(C)(C)O | C3H8O
product | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-hydroxymethyl-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC)CO | C33H45N5O4
